US04143139
Ethyl 3-(3,5-Dibenzyloxyphenyl)crotonate (Wittig Reaction)
In like manner, ethyl 3-(3,5-dimethoxyphenyl)crotonate is prepared from 3,5-dimethoxyacetophenone (51.7 g.) and carbethoxymethylene triphenylphosphorane (200 g.). Yield = 61.8 g., 86%, b.p. 146°-162° C. at 0.3 mm.

reactant | ethyl 3-(3,5-dimethoxyphenyl)crotonate | COC=1C=C(C=C(C1)OC)\C(=C/C(=O)OCC)\C | C14H18O4
reactant | 3,5-dimethoxyacetophenone | 51.7 g | CC(=O)C1=CC(=CC(=C1)OC)OC | C10H12O3
reactant | carbethoxymethylene triphenylphosphorane | 200 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
product | Ethyl 3-(3,5-Dibenzyloxyphenyl)crotonate | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)OCC1=CC=CC=C1)\C(=C/C(=O)OCC)\C | C26H26O4
